US20010007873A1
H. 4-(6-Amino-pyridin-2-yl)-3-cyclopentyl-phenol
Prepared by heating 3-cyclopentyl-4-[6-(2,5-dimethyl-pyrrol-1-yl)-pyridin-2-yl]-phenol with NH2OH·HCl in aqueous ethanol, as described in Example 1G, in 61% yield.

reactant | 3-cyclopentyl-4-[6-(2,5-dimethyl-pyrrol-1-yl)-pyridin-2-yl]-phenol | C1(CCCC1)C=1C=C(C=CC1C1=NC(=CC=C1)N1C(=CC=C1C)C)O | C22H24N2O
reactant | NH2OH·HCl | NO.Cl
solvent | ethanol | C(C)O | C2H6O
product | 4-(6-Amino-pyridin-2-yl)-3-cyclopentyl-phenol | 61% yield | NC1=CC=CC(=N1)C1=C(C=C(C=C1)O)C1CCCC1 | C16H18N2O
